US06204293B1
[4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester
The desired compound was prepared by coupling 4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoic acid, prepared as in Example 272C, with methionine methyl ester hydrochloride using the procedure of Example 184A.

reactant | 4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoic acid | S1C(=CC=C1)COCC1=CC(=C(C(=O)O)C=C1)C1=C(C=CC=C1)C | C20H18O3S
reactant | methionine methyl ester hydrochloride | Cl.COC([C@@H](N)CCSC)=O
product | [4-(2-thienylmethoxymethyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)COCC=1SC=CC1)C1=C(C=CC=C1)C)=O)CCSC)=O | C26H29NO4S2
